US04339575
A solution of 0.5 g of methoxymethyl 7β-(2,2-dimethyl-5-oxo-4-phenylimidazolidin-1-yl)-3-chloro-3-cephem-4-carboxylate in 10 ml of methanol is refluxed for 1 hour, and the reaction mixture is concentrated to a third volume and stirred for 30 minutes under ice-cooling. The resulting precipitate is collected by filtration and dried under reduced pressure to yield 0.4 g of 7β-(2,2-dimethyl-5-oxo-4-phenylimidazolidin-1-yl)-3-chloro-3-cephem-4-carboxylic acid.

reactant | methoxymethyl 7β-(2,2-dimethyl-5-oxo-4-phenylimidazolidin-1-yl)-3-chloro-3-cephem-4-carboxylate | 0.5 g | CC1(N(C(C(N1)C1=CC=CC=C1)=O)[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCOC)C1=O)C | C20H22ClN3O5S
solvent | methanol | 10 ml | CO | CH4O
product | 7β-(2,2-dimethyl-5-oxo-4-phenylimidazolidin-1-yl)-3-chloro-3-cephem-4-carboxylic acid | 0.4 g | CC1(N(C(C(N1)C1=CC=CC=C1)=O)[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C | C18H18ClN3O4S
